US07402595B2
[Step 3] 4-(6-bromo-3-butyryl-1-oxo-4-phenyl-1H-isoquinolin-2-ylmethyl)benzoic acid methyl ester
In the same manner as in Example 458, Step 2, the title compound was synthesized from 4-[(2-hydroxypentylamino)methyl]benzoic acid methyl ester hydrochloride and 2-benzoyl-4-bromobenzoic acid.

reactant | 4-[(2-hydroxypentylamino)methyl]benzoic acid methyl ester hydrochloride | Cl.COC(C1=CC=C(C=C1)CNCC(CCC)O)=O
reactant | 2-benzoyl-4-bromobenzoic acid | C(C1=CC=CC=C1)(=O)C1=C(C(=O)O)C=CC(=C1)Br | C14H9BrO3
product | 4-(6-bromo-3-butyryl-1-oxo-4-phenyl-1H-isoquinolin-2-ylmethyl)benzoic acid methyl ester | COC(C1=CC=C(C=C1)CN1C(C2=CC=C(C=C2C(=C1C(CCC)=O)C1=CC=CC=C1)Br)=O)=O | C28H24BrNO4
